Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization (___)
 
History of Present Illness:
___ yo male history of CAD IMI in ___ and 3VD with stent to LAD 
in ___, HTN, presenting with chest pain. Patient noitces for 
the last 2 weeks or so he has been having chest discomfort with 
minimal activity. Specifically having chest heaviness taking in 
his garbage cans, pushing a golf cart, or talking short walks. 
For the last 2 days, patient noticed with minimal exertion and 
short walks, would have chest heaviness/discomfort that would 
resolve after several minutes of rest. The day of presentation, 
the patient went for a walk at 3 ___ had had right sided chest 
pressure, which resolved with rest. He was home and doing 
chores, and decided to go for a walk again and said after about 
___ a mile the chest discomfort returned prompting him to go 
to the hospital for further evaluation.

He was seen at an outside hospital where a CTA of the chest was 
performed it showed no evidence of pulmonary embolism. He was 
sent here for further eval. He received an aspirin. Trop 0.02 at 
OSH.  
Initial VS in the ED: T 97.5 HR 68 BP 157/103 RR 16 satting 97% 
on RA. Labs were all normal including tropinins, CMP, CBC. EKG 
showed sinus rhythm Q waves inferiorly consistent with prior. 
VSS at time of transfer.  
 
CP feels different than his MI in the past, which was burning 
pain.  This has felt more like pressure.

Apparently gets nuclear studies as part of a research protocol 
at ___ serially.

On the floor, pt. in NAD.  

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria. Denied 
arthralgias or myalgias.  
 
Past Medical History:
- CAD s/p IMI ___ when playing basketball, cath about one year  

later showed 3VD, stent in ___ to LAD by Dr. ___.
- Hypertension  
- H/o hernia repair  
- H/o pilonidal cysts  
- Achilles tendon tear Left leg
 
Social History:
___
Family History:
Father died from MI, mother with valvular disorder in ___.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Gen: well appearing, NAD, lying flat  
Heent: OP clear, moist, anicteric  
Neck: supple, JVP flat  
Lungs: CTAB  
___: nl S1 S2 PMI non displaced, RRR, no m/r/g  
Abd: soft, NT/ND, BS+  
Ext: warm, 1+ edema to ankles b/l  
Neuro: A&O, appropriate, full strength, normal senstation  
throughout  

DISCHARGE PHYSICAL EXAM:
Vitals: T 97.5 BP 131/74 HR 69 RR 18 SaO2 98% on RA
Gen: well appearing, NAD, lying flat  
Heent: OP clear, moist, anicteric  
Neck: supple, JVP flat  
Lungs: CTAB  
___: nl S1 S2 PMI non displaced, RRR, no m/r/g  
Abd: soft, NT/ND, BS+  
Ext: warm, 1+ edema to ankles b/l  
Neuro: A&O, appropriate, full strength, normal senstation  
throughout  
 
Pertinent Results:
___ 06:58AM BLOOD cTropnT-<0.01
___ 02:00AM BLOOD cTropnT-<0.01
___ 02:00AM BLOOD Glucose-104* UreaN-20 Creat-1.0 Na-141 
K-4.1 Cl-106 HCO3-25 AnGap-14
___ 06:58AM BLOOD Glucose-94 UreaN-17 Creat-0.9 Na-143 
K-4.1 Cl-106 HCO3-28 AnGap-13
___ 02:00AM BLOOD WBC-5.1 RBC-4.68 Hgb-14.7 Hct-41.3 MCV-88 
MCH-31.4 MCHC-35.6* RDW-12.6 Plt ___
___ 06:58AM BLOOD WBC-4.4 RBC-4.63 Hgb-14.4 Hct-41.2 MCV-89 
MCH-31.1 MCHC-34.8 RDW-12.5 Plt ___

CARDIAC CATH (___)
- Final results pending at the time of discharge but verbal 
signout and images reviewed, revealing existing known CAD plus a 
lesion in the mLAD s/p DES.
 
Brief Hospital Course:
___ yo male with CAD presenting with symptoms concerning for 
unstable angina.
 
#) UNSTABLE ANGINA: Known CAD with stent in past. Has stressed 
himself with pain with minimal exertion.  No evidence of cardiac 
enzyme leak.  TIMI risk = 4.  Started on heparin gtt.  Given 
atorvastatin 80mg, metoprolol.  Cath revealed similar findings 
as prior cath with known occluded RCA, but now mLAD lesion felt 
to be culprit s/p DES.

#) HYPERTENSION: Not optimally controlled. Consider increasing 
losartan as outpatient.
# Code: Full code
# Communication: Patient/ Wife ___ ___   
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
hold for SBP<100/ HR<60 
5. Fish Oil (Omega 3) 2400 mg PO QHS 
6. Vitamin D ___ UNIT PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. Losartan Potassium 50 mg PO DAILY 
hold for SBP<100 or K+>5.5 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Fish Oil (Omega 3) 2400 mg PO QHS 
5. FoLIC Acid 1 mg PO DAILY 
6. Losartan Potassium 50 mg PO DAILY 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unstable angina
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
   It was a pleasure taking care of you at ___.  You were 
admitted for chest pain and were found to have a blockage in one 
of your heart arteries.  A stent was placed in this artery, 
relieving the blockage.  Please refrain from vigorous physical 
activity for one week.  You must take your medications EVERY 
DAY.
 
Followup Instructions:
___